US09371320B2
H) 3-bromo-1-cyclopentyl-4-methoxy-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile
To a solution of 3-bromo-1-cyclopentyl-4-methoxy-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxamide (654 mg) in THF (8 mL) was added Burgess reagent (1152 mg at 0° C.), and the mixture was stirred at 0° C. for 2 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (522 mg).

reactant | 3-bromo-1-cyclopentyl-4-methoxy-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxamide | 654 mg | BrC1=CN(C2=C1C(NC=C2C(=O)N)OC)C2CCCC2 | C14H18BrN3O2
reactant | Burgess reagent | 1152 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
reactant | water | O | H2O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-bromo-1-cyclopentyl-4-methoxy-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile | 522 mg | BrC1=CN(C2=C1C(NC=C2C#N)OC)C2CCCC2 | C14H16BrN3O
